US07989454B2
Step 2: 3-Benzyloxy-5-trifluoromethanesulfonyloxy-benzoic acid methyl ester
3-Benzyloxy-5-hydroxy-benzoic acid methyl ester (12.4 g) was dissolved in dry dichloromethane (250 mL) and triethylamine (5.9 g) was added. The resulting mixture was cooled in an ice-bath and a solution of triflic anhydride (14.7 g) in dichloromethane (30 mL) was added dropwise. After the addition was completed, the cooling bath was removed and the reaction mixture was stirred at room temperature for 3 h. Then it was washed with saturated sodium bicarbonate solution, water, 5% HCl and water again. The organic extract was dried over magnesium sulfate and concentrated under reduced pressure to afford 17.5 g (93% yield) of the title compound.

reactant | 3-Benzyloxy-5-hydroxy-benzoic acid methyl ester | 12.4 g | COC(C1=CC(=CC(=C1)O)OCC1=CC=CC=C1)=O | C15H14O4
reactant | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 14.7 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-Benzyloxy-5-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 17.5 g, 93% yield | COC(C1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OCC1=CC=CC=C1)=O | C16H13F3O6S
